US04497944
When the polyamide-imide resin obtained in this invention is made into a varnish, there may be used as auxiliary solvents xylene, NISSEKI HISOL-100, 150 (trade names, mfd. by Nippon Petrochemicals Co., Ltd., aromatic hydrocarbons obtained from petroleum, b.p. 80°-300° C.), methyl Cellosolve acetate, ethyl Cellosolve acetate, γ-butyrolacetone and the like in combination with the basic organic solvents described above.

reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
reactant | methyl Cellosolve acetate | CC(=O)OCCOC | C5H10O3
product | ethyl Cellosolve acetate | CCOCCOC(=O)C | C6H12O3
